US07030240B2
4-Methyl-4-(5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
The title compound was prepared (373.9 mg, 93%) from 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine (224 mg, 1 mmol) and 4-amino-4-methyl-piperidine-1-carboxylic acid tert-butyl ester (235.4 mg, 1.1 mmol) by following the procedure described for preparation 9. 1H NMR (400 MHz, CDCl3): δ (ppm) 8.39 (s, 1H), 3.33 (m, 4H), 3.10 (m, 2H), 2.87 9M, 2H), 1.93 (m, 4H), 1.66 (m, 4H), 1.40 (s, 9H), 1.22 (s, 3H); MS (SEI): m/z: Calculated: 402.6; Observed: 403.2 (M++1).

reactant | 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine | 1 mmol, 224 mg | ClC=1C2=C(N=CN1)SC1=C2CCCC1 | C10H9ClN2S
reactant | 4-amino-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 235.4 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)N | C11H22N2O2
product | 4-Methyl-4-(5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC=1C2=C(N=CN1)SC1=C2CCCC1)C | C21H30N4O2S
